US05348956
2 equivalents of triethylamine dissolved in dioxane are added to one equivalent of 8-oxa-3-azabicyclo[3,2,1]octane hydrochloride suspended in the same solvent. 1 equivalent of 2-chloro-4-cyclopropylamino-6-methyl-1,3,5-triazine dissolved in dioxane is then added. The mixture is heated under reflux for some hours. It is cooled to room temperature and the precipitate which has formed is filtered off. The filtrate is evaporated under reduced pressure and the residue is redissolved in dichloromethane. The solution is washed with water. The organic phase is separated off and dried over sodium sulfate, and the solvent is then evaporated under reduced pressure. The residue thus obtained is purified by chromatography on silica (eluent: 98:2 (v/v) dichloromethane-ethanol). 2-cyclopropylamino-4-methyl-6-(8-oxa-3-azabicyclo[3,2,1]oct-3-yl)-1,3,5-triazine hydrochloride is prepared by addition of one equivalent of hydrochloric acid to the free base in diethyl ether. Yield: 63%. M.P.: 220°-223° C.

reactant | triethylamine | 2 equivalents | C(C)N(CC)CC | C6H15N
reactant | 8-oxa-3-azabicyclo[3,2,1]octane hydrochloride | one equivalent | Cl.C12CNCC(CC1)O2
reactant | 2-chloro-4-cyclopropylamino-6-methyl-1,3,5-triazine | 1 equivalent | ClC1=NC(=NC(=N1)NC1CC1)C | C7H9ClN4
reactant | hydrochloric acid | one equivalent | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-cyclopropylamino-4-methyl-6-(8-oxa-3-azabicyclo[3,2,1]oct-3-yl)-1,3,5-triazine hydrochloride | Yield: 63% | Cl.C1(CC1)NC1=NC(=NC(=N1)C)N1CC2CCC(C1)O2 | InChI=1S/C13H19N5O.ClH/c1-8-14-12(16-9-2-3-9)17-13(15-8)18-6-10-4-5-11(7-18)19-10;/h9-11H,2-7H2,1H3,(H,14,15,16,17);1H
